US06022894
Triethylamine (16.8 g, 166 mmol) and 2,2-dimethyl-3-(4-methoxyphenyl)propionic acid (32.6 g, 157 mmol) were dissolved in 30 mL of water and enough acetone to maintain solubility at 0° C. A solution of ethyl chloroformate (20.1 g, 185 mmol) in acetone (100 mL) was then added dropwise. An aqueous solution (95 mL) of sodium azide (12.9 g, 198 mmol) was then added dropwise and the resulting reaction mixture stirred 45 minutes at room temperature. The intermediate acyl azide was then extracted into toluene (200 mL). The organic extract was washed with water, dried over anhydrous magnesium sulfate, and heated at 100° C. until the evolution of nitrogen ceased (~45 min). The toluene was removed under vacuum and replaced with benzyl alcohol. The solution was then heated at 100° C. for 16 hours. The excess benzyl alcohol was removed under vacuum. The resulting benzyl carbamate was dissolved in absolute ethanol (200 mL) and reduced in the presence of palladium hydroxide (2 g) under 90 p.s.i. hydrogen for 4 hours at room temperature. The reaction was filtered and concentrated to a yellow oil. Vacuum distillation afforded 13.0 g of 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 180 (M+1, 1), 164 (5), 121 (25), 91 (5), 78 (19), 58 (100).

reactant | Triethylamine | 166 mmol, 16.8 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-3-(4-methoxyphenyl)propionic acid | 157 mmol, 32.6 g | CC(C(=O)O)(CC1=CC=C(C=C1)OC)C | C12H16O3
reactant | ethyl chloroformate | 185 mmol, 20.1 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 198 mmol, 95 mL, 12.9 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 13.0 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
